US07872014B2
A solution of 4-(8-fluoro-2,3-dihydro-1,4-benzodioxin-6-yl)-3-methyl-1H-pyrazol-5-amine (100 mg, 0.40 mmol) and 5-chloro-2-fluoro-4-hydroxybenzaldehyde (70 mg, 0.40 mmol) in TFA (2 mL) was stirred at 90° C. for 16 h. The reaction mixture was concentrated and purified by preparative reverse phase HPLC to give 2-chloro-5-fluoro-4-(6-fluoro-1-methyl-8,9-dihydro-3H-[1,4]dioxino[2,3-g]pyrazolo[3,4-c]isoquinolin-5-yl)phenol (18 mg, 11% yield) as a yellow solid after lyophillization of the pure fractions. 1H NMR (400 MHz, d6-DMSO) δ 10.98 (s, 1H), 7.55 (m, 2H), 6.86 (dd, 1H), 4.44 (m, 4H), 2.74 (s, 3H); MS (EI) for C19H12ClF2N3O3: 404 (MH+).

reactant | 4-(8-fluoro-2,3-dihydro-1,4-benzodioxin-6-yl)-3-methyl-1H-pyrazol-5-amine | 0.40 mmol, 100 mg | FC1=CC(=CC2=C1OCCO2)C=2C(=NNC2N)C | C12H12FN3O2
reactant | 5-chloro-2-fluoro-4-hydroxybenzaldehyde | 0.40 mmol, 70 mg | ClC=1C(=CC(=C(C=O)C1)F)O | C7H4ClFO2
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-chloro-5-fluoro-4-(6-fluoro-1-methyl-8,9-dihydro-3H-[1,4]dioxino[2,3-g]pyrazolo[3,4-c]isoquinolin-5-yl)phenol | 18 mg, 11% yield | ClC1=C(C=C(C(=C1)C1=NC2=C(C=3C=C4C(=C(C13)F)OCCO4)C(=NN2)C)F)O | C19H12ClF2N3O3
